Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
exertional dyspnea w/ known AS presented
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with known AS and CAD with worsening
exertional dyspnea over the past weeks and was admitted to ___ for elective PCI
 
Past Medical History:
Aortic stenosis, CAD, Hypertension, Hyperlipidemia
 
Social History:
___
Family History:
Family History:Premature coronary artery disease: 
Father d. ___.  Mother-d. ___ d/t cerebral bleed, h/o"heart
condition"  2 sisters w/"heart disease" but died ___ & 1 w/COPD
2 brothers- 1 d.___, 1 d. ___,CVA
4 sons-1 w/CAD/stent age ___.
 
Physical Exam:
Physical Exam

Pulse:83, SR Resp: 18 O2 sat:96% on RA
B/P:130/55
Height:1.68m     Weight:59kg

General:WDWN, NAD, looks younger than stated age
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x], teeth in fair repair
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [x] grade _III/VI, best
upper RSB_____
Abdomen: Soft [x] non-distended [] non-tender [x]  bowel sounds 
+
[x], well healed scar below umbilicus
Extremities: Warm [x], well-perfused [x]  Edema:none [x] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2   Left: 2
DP           Right: 2   Left: 2
___           Right: 2   Left: 2
Radial       Right: 2   Left: 2

Carotid Bruit        Right:  none  Left:none
 
Pertinent Results:
___ ___ F  ___  ___HEST W/O CONTRAST Study Date of ___ 
6:44 ___ 

___ FA___ ___ 6:___HEST W/O CONTRAST   Clip # ___   
Reason: eval pulm nodule on CXR/ eval aortic calcification  
 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with AS, preop AVR  
REASON FOR THIS EXAMINATION: 
   eval pulm nodule on CXR/ eval aortic calcification  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 
 
 
Wet Read by ___ on ___ ___ 8:30 AM 
  
 1. Focal nodularity/atelectasis in the lingula with surrounding 
nodular 
opacities which could reflect findings seen on recent chest 
radiograph.  
Additional area of ground-glass opacity in the right upper lobe 
is present 
(series 4 a, 84). Minimal to mild bronchial wall thickening. 
Taken together, 
these findings could be secondary to small airways disease. No 
focal mass or 
definite infectious process identified. 2. Severe aortic valve 
calcification. 
 

Wet Read Audit # 1 by ___ on ___ ___ 9:03 
___ 
1. Focal nodularity/atelectasis in the lingula with surrounding 
nodular 
opacities which could reflect findings seen on recent chest 
radiograph.  
Additional area of ground-glass opacity in the right upper lobe 
is present 
(series 4 a, 84). Minimal to mild bronchial wall thickening. 
Taken together, 
these findings could be secondary to small airways disease. No 
focal mass or 
definite infectious process identified. 2. Severe aortic valve 
calcification. 
 

Final Report 
EXAMINATION:  CT CHEST W/O CONTRAST 
  
INDICATION:  ___ year old woman with AS, preop AVR  // eval pulm 
nodule on CXR/ 
eval aortic calcification 
  
TECHNIQUE:  Multi detector helical scanning of the chest was 
reconstructed as 
5 and 1.25 mm thick axial, 2.5 mm thick coronal and 
parasagittal, and 8 mm MIP 
axial images.  Contrast agent was not administered. 
  
DOSAGE:  TOTAL DLP 282mGy-cm 
  
COMPARISON:  Chest radiograph ___ 
  
FINDINGS:  
  
The observed abnormality on recent chest radiograph corresponds 
to a 2 cm x 
1.9 cm diameter polygonal shaped opacity within the inferior 
segment of the 
lingula, which contains internally dilated bronchi, small 
calcified 
granulomas, and is associated with adjacent volume loss.  Small 
peribronchiolar clustered nodules adjacent to this region are 
consistent with 
small airways disease. 
  
Assessment of the remainder of the lungs is somewhat limited due 
to extensive 
respiratory motion artifact.  Scattered from bronchiolar 
opacities are present 
predominantly in the right upper lobe posterior segment, and 
note is made 
diffuse bronchial wall thickening and irregularity with 
bilaterally.  Biapical 
fibronodular scarring is present with associated small calcified 
granulomas.  
The latter appear unchanged compared to images of the lung 
apices from a neck 
CT ___. 
  
The aortic valve is heavily calcified, consistent with history 
of severe 
aortic stenosis.  Diffuse severe coronary artery calcifications 
are also 
present.  Heart is mildly enlarged, and there is no pericardial 
or pleural 
effusion.  A small hiatal hernia is incidentally noted. 
  
Thoracic aorta is normal in caliber and demonstrates 
atheromatous 
calcifications at the root of the ascending aorta, as well as 
mild 
calcifications in the aortic arch and mild to moderate 
calcifications in the 
descending thoracic aortic region. 
  
Exam was not tailored to evaluate the subdiaphragmatic region, 
but note is 
made of a low-density 1.8 cm diameter lesion within the left 
lobe of the liver 
with fluid density most suggestive of a cyst.  Diffuse 
hyperdensity of the 
liver compared to the spleen raises the possibility of 
amiodarone therapy. 
  
Skeletal structures demonstrate multilevel degenerative changes 
in the spine. 
  
IMPRESSION:  
  
1.  The abnormality on recent chest radiograph corresponds to a 
region of 
focal lingular scarring, likely the sequela of previous 
granulomatous 
infection considering associated calcified granulomas and 
traction 
bronchiectasis.  Foci of small airways disease in the adjacent 
lingula and in 
the posterior right upper lobe may be due to inflammatory 
secretions, but the 
possibility of active infection, including chronic atypical 
mycobacterial 
infection or less likely post-primary TB, is not fully excluded 
on the basis 
of imaging findings.  Correlation with PPD and sputum assessment 
may be 
helpful. 
  
2.  Heavily calcified aortic valve, in keeping with severe 
aortic stenosis.  
Diffuse severe coronary artery calcifications. 
  
NOTIFICATION:   The findings were discussed by Dr. ___ 
___ with Dr. 
___ on the telephoneon ___ at 8:23 AM, 5 minutes 
after discovery 
of the findings. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on ___ ___ 
8:30 AM 
 

  Imaging Lab 
 
 There is no report history available for viewing. 

      

___ ___ F  ___  ___ 
 
Radiology Report CAROTID SERIES COMPLETE Study Date of 
___ 9:31 AM 
 
  

___. CSURG FA6A ___ 9:31 AM 
CAROTID SERIES COMPLETE   Clip # ___   
Reason: eval severity carotid disease, preop AVR  
 
 

UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with aortic stenosis and reported h/o 
carotid stenosis  
REASON FOR THIS EXAMINATION: 
   eval severity carotid disease, preop AVR  
 

 

Final Report 
EXAMINATION:  Carotid Doppler Ultrasound 
  
INDICATION:  ___ year old woman with aortic stenosis and reported 
h/o carotid 
stenosis.  Evaluate severity carotid disease in preparation for 
AVR. 
  
TECHNIQUE:  Real-time grayscale, color, and spectral Doppler 
ultrasound 
imaging of the carotid arteries was obtained. 
  
COMPARISON:  CTA neck from ___ 
  
FINDINGS:  
  
RIGHT: 
The right carotid vasculature has mild homogeneous 
atherosclerotic plaque. 
The peak systolic velocity in the right common carotid artery is 
61 cm/sec. 
The peak systolic velocities in the proximal, mid, and distal 
right internal 
carotid artery are 60, 46, and 44 cm/sec, respectively.  The 
peak end 
diastolic velocity in the right internal carotid artery is 16 
cm/sec. 
The ICA/CCA ratio is 1.0. 
The external carotid artery has peak systolic velocity of 59 
cm/sec. 
The vertebral artery is patent with antegrade flow. 
  
LEFT: 
The left carotid vasculature has mild homogeneous 
atherosclerotic plaque. 
The peak systolic velocity in the left common carotid artery is 
65 cm/sec. 
The peak systolic velocities in the proximal, mid, and distal 
left internal 
carotid artery are 68, 96, and 62 cm/sec, respectively.  The 
peak end 
diastolic velocity in the left internal carotid artery is 23 
cm/sec. 
The ICA/CCA ratio is 1.5. 
The external carotid artery has peak systolic velocity of 76 
cm/sec. 
The vertebral artery is patent with antegrade flow. 
  
IMPRESSION:  
  
Mild homogeneous atherosclerotic plaque bilaterally resulting in 
less than 40% 
stenosis of both ICAs. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on ___ ___ 
4:26 ___ 
 

  Imaging Lab 
 
 

Report History 
 ___ ___ 4:26 ___
by INFORMATION,SYSTEMS  View  Close  

 

___ 01:43AM BLOOD WBC-6.5 RBC-3.87* Hgb-11.5 Hct-35.4 
MCV-92 MCH-29.7 MCHC-32.5 RDW-13.1 RDWSD-43.4 Plt ___
___ 01:43AM BLOOD Glucose-121* UreaN-13 Creat-0.6 Na-139 
K-3.7 Cl-106 HCO3-21* AnGap-16
___ 01:43AM BLOOD ALT-9 AST-15 AlkPhos-43 Amylase-39 
TotBili-0.___ year old female with known AS and clean coronaries 
transferred to ___ for evaluation for AVR vs. ___. Preop work 
up was done. Question of nodule on CXR prompted chest CT scan. 
Cat scan revealed 1.The abnormality on recent chest radiograph 
corresponds to a region of focal lingular scarring, likely the 
sequela of previous granulomatous infection considering 
associated calcified granulomas and traction bronchiectasis.  
Foci of small airways disease in the adjacent lingula and in the 
posterior right upper lobe may be due to inflammatory 
secretions, but the possibility of active infection, including 
chronic atypical mycobacterial infection or less likely 
post-primary TB, is not fully excluded on the basis of imaging 
findings. 2.  Heavily calcified aortic valve, in keeping with 
severe aortic stenosis.  Diffuse severe coronary artery 
calcifications.
Panorex and Dental consult performed revealed:  The patient 
presents with a full dentition , but is missing her ___ quadrant. 
 She recalls having lost a fixed bridge in that area. There is 
evidence of a remaining molar root which is necrotic.  There is 
no evidence of acute infection.  She has no swelling or exudate. 
Dental recommended OMFS consult if time warranted. Discussed 
with ___ team and with no active infection the pt may have 
dental work done as outpt.
The structural Heart team evaluated the pt. ___ will 
be discharged to home with follow up appointments arranged and 
directed by Structural heart Team to pursuit ___.

 

 
Medications on Admission:
Medications at home: (___ in ___
Pravastatin 40mg daily, ASA 81mg daily, synthroid 75mcg po 
daily,
vitamin D3 1000units daily, calcium 600mg BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortic Stenosis

 
Discharge Condition:
good
Still has chest/ shoulder discomfort and dizziness at baseline

 
Discharge Instructions:
___ resume activity as tolerated. 
Please resume medications as directed. 
Any questions or concerns please contact Structural Heart Team, 
___.
 
Followup Instructions:
___